US07709471B2
4-amino-2-fluoro-5-methoxy-N-(1-methyl-4-piperidyl)benzamide
2-fluoro-5-methoxy-N-(1-methyl-4-piperidyl)-4-nitro-benzamide Intermediate 28; 1.3 g, 4.2 mmol) 10% Palladium on Carbon (100 mg) and Methanol (50 mL) were combined and stirred at 25° C. under Hydrogen at 1 bar pressure for 18 hours.

reactant | 2-fluoro-5-methoxy-N-(1-methyl-4-piperidyl)-4-nitro-benzamide | FC1=C(C(=O)NC2CCN(CC2)C)C=C(C(=C1)[N+](=O)[O-])OC | C14H18FN3O4
catalyst | Palladium on Carbon | 100 mg | [Pd] | Pd
solvent | Methanol | 50 mL | CO | CH4O
product | 4-amino-2-fluoro-5-methoxy-N-(1-methyl-4-piperidyl)benzamide | NC1=CC(=C(C(=O)NC2CCN(CC2)C)C=C1OC)F | C14H20FN3O2
